US08486953B2
Preparation of [4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenyl]-(5,6,7,8-tetrahydro-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-yl)-amine
Trifluoroacetic acid (0.50 mL) was added into a solution of 4-[4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester (0.031 g, 0.06 mmol) in DCM (1 mL) and the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with DCM and washed with 2M NaOH. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was washed with hexane to afford the title compound as a white solid (0.016 g, 65%).

reactant | Trifluoroacetic acid | 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenylamino]-5,8-dihydro-6H-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.06 mmol, 0.031 g | C(C)(C)(C)OC(=O)N1CC2=C(C3=C(N=CN=C3NC3=C(C=C(C=C3)F)OC3CCOCC3)S2)CC1 | C25H29FN4O4S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | [4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)-phenyl]-(5,6,7,8-tetrahydro-pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-yl)-amine | 0.016 g, 65% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC1=C2CCNC1)OC1CCOCC1 | C20H21FN4O2S
